US07750003B2
2-Methylsulfanyl-6-(methylsulfonylmethyl)pyrimidin-4-ol
6-(Chloromethyl)-2-methylsulfanyl-pyrimidin-4-ol (19.07 g, 100 mmol) was suspended in acetonitrile (400 ml). To this stirring suspension was added methanesulphinic acid sodium salt (12.255 g, 120 mmol) and DMF (100 ml). The reaction was then heated to 100° C. to give a dark suspension and monitored by LCMS. Once complete, the solvents were removed and the resultant product added to 1:1 MeOH:DCM (200 ml) and acidified with acetic acid (10 ml). The resultant precipitate was collected, washed with water (200 ml) and MeOH (100 ml) and dried overnight in vacuo to afford the title compound as a white solid, 16.45 g.

reactant | 6-(Chloromethyl)-2-methylsulfanyl-pyrimidin-4-ol | 100 mmol, 19.07 g | ClCC1=CC(=NC(=N1)SC)O | C6H7ClN2OS
reactant | methanesulphinic acid sodium salt | 120 mmol, 12.255 g | [Na+].CS(=O)[O-]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 2-Methylsulfanyl-6-(methylsulfonylmethyl)pyrimidin-4-ol | CSC1=NC(=CC(=N1)O)CS(=O)(=O)C | C7H10N2O3S2
